US07138413B1
2-Methyl 4-(3-piperidinopropylamino)quinoline
Synthesis and purification were performed according to the procedure stated in example 152 using reagents 3-aminopropanol (15 mmol), 4-chloro-2-methylquinoline (15 mmol), 5 ml of triethylamine, and catalytic amounts of potassium iodide in the first step. The final product was purified by flash chromatography (eluent: ethyl acetate/triethylamine (95/5)). The solvent was removed under reduced pressure. The residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | 3-aminopropanol | 15 mmol | NCCCO | C3H9NO
reactant | 4-chloro-2-methylquinoline | 15 mmol | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | potassium iodide | [I-].[K+]
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 2-Methyl 4-(3-piperidinopropylamino)quinoline | CC1=NC2=CC=CC=C2C(=C1)NCCCN1CCCCC1 | C18H25N3
